Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3]([C:4]([O:5][H:15])=[O+:6][C-:7]([H:14])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],1.7104950524266798
[O:1]([C@@:2]1([H:7])[O:3][C:4]([H:8])([H:9])[C:5]1=[C:6])[H:10]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7],12.25158661572199
[C:1]([N:2]([H:7])[H:8])([H:5])[H:6].[C:3](=[O:4])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],13.041019953432283
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:3](=[C:4]=[O:5])([H:9])[H:10].[H:6][H:11].[O:1]=[C:2]([H:7])[H:8],56.99651805283001
[C:1](/[C:2](=[N:3]\[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],72.8918532872015
[O:1]([C@:2]1([H:7])[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]1=[C:6])[H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],7.919297881410699
[C-:3]([C:4]([H:13])([H:14])[H:15])=[O+:5][C:6]([H:16])([H:17])[H:18].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],16.565166661476496
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([C:4]([H:13])([H:14])[H:15])[C:6]([O:5][H:16])=[C:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],63.6323608686033
[C:1]1([H:5])([H:7])[C:2]([H:8])([H:9])[C:3][C:4]1([H:6])[H:10]>>[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7],35.0027090430693
[N:1]#[C:2]/[C:3](=[N:5]/[C:4]([H:7])([H:8])[H:9])[H:6]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],78.3647752224944
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[O:3][C:4]([H:12])([H:13])[C:5]([H:7])([H:14])[O:6]1>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],79.18163752142485
[C:1]([C-:2]([O+:3]=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:10])([H:7])([H:8])[H:9].[C:6]([H:11])([H:16])([H:17])[H:18]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],23.613888766997
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:6][C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10].[O:2]1[C:3]([H:11])([H:12])[C:4]1=[O:5],85.1718161913805
[C:1]([C-:2]([N+:3]([C:4](=[O:5])[H:12])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],7.687733254507421
[C:1]([O:2][C:6]1=[C:7]([H:17])[C:3]1([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],52.37873464072064
[N:1]([C+:2]=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([O-:6])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],35.688048288685195
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1]1([H:7])([H:10])[C:2][C@@:3]2([H:8])[C@:4]1([H:9])[C:5]([H:11])([H:12])[O:6]2,94.8534440770451
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:4]([C:3]#[C:2][H:7])[C:5]#[C:6][H:8],79.0969179304211
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[C:5]=[N:6][N:4]([H:10])[H:11])([H:7])([H:8])[H:9],87.95163954084471
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])=[C:2]=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12].[H:8][H:9],104.486730795446
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C@:2]([O:3][H:11])([C:6](=[O:7])[H:13])[H:9])([H:8])([H:10])[H:12],83.4759922947371
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[N:4]=[N:5]/[H:11])=[C:7]=[C:6]([H:12])[H:13])([H:8])([H:9])[H:10],76.6879089755271
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:6]([C:4](=[O:5])[H:11])([H:10])[H:12])([H:7])([H:8])[H:9],70.268797696986
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C:2](=[C:6]=[C:7]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:12])[H:9])[H:8],56.392612430836
[C:1]([C@:2]1([H:11])[C:3]/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],0.059519513517585665
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])([H:8])([H:9])[H:10].[H:11][H:12],78.1882141763666
